US07022707B2
Piperazine-1,4-dicarboxylic acid 3-(2-phenylethoxy)benzyl ester tert-butyl ester:
potassium carbonate (0.072 g, 0.52 mmol) was added to a solution of piperazine-1,4-dicarboxylic acid (3-hydroxy)benzyl ester tert-butyl ester (0.16 g, 0.48 mmol) in acetone (5 mL) at 0° C. and the reaction mixture was stirred at 0° C. for 30 min. (2-Bromoethyl)-benzene (0.097 g, 0.52 mmol) was added and the reaction mixture was allowed to warm to room temperature and then heated under reflux for 24 h. After cooling, the reaction mixture was concentrated in vacuo and the residue was partitioned between water (20 mL) and ethyl acetate (20 mL). The organic phase was separated, washed with saturated brine (25 mL), dried (MgSO4) and concentrated in vacuo to give an oil which was purified by column chromatography [SiO2; heptane-ethyl acetate (3:1)] to yield the title compound (0.10 g, 48%) as a colourless oil. 1H-NMR (400 MHz, CDCl3): 1.46 (9H, s), 3.10 (2H, t, J=7.0 Hz), 3.40 (4H, m), 3.46 (4H, m), 4.18 (2H, t, J=7.0 Hz), 5.09 (2H, s), 6.84 (1H, m), 6.88 (1H, m), 6.91 (1H, m) and 7.22–7.34 (6H, m).

reactant | potassium carbonate | 0.52 mmol, 0.072 g | C([O-])([O-])=O.[K+].[K+]
reactant | piperazine-1,4-dicarboxylic acid (3-hydroxy)benzyl ester tert-butyl ester | 0.48 mmol, 0.16 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)OCC1=CC(=CC=C1)O | C17H24N2O5
reactant | (2-Bromoethyl)-benzene | 0.52 mmol, 0.097 g | BrCCC1=CC=CC=C1 | C8H9Br
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | Piperazine-1,4-dicarboxylic acid 3-(2-phenylethoxy)benzyl ester tert-butyl ester | 0.10 g, 48% | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)OCC1=CC(=CC=C1)OCCC1=CC=CC=C1 | C25H32N2O5
